US05616601
Step 1: Preparation of N-[4-(methylsulfonyl)phenyl]-2-pyridinecarboximidamide
To a suspension of 4-(methylsulfonyl)aniline hydrochloride (6 g, 28.8 mmol) in toluene (150 ml) at 0° C., trimethylaluminum (2M solution in toluene, 21.6 ml, 43.2 mmol) was added over 15 minutes. The reaction mixture was warmed to room temperature and stirred for 2.5 hours. A solution of 2-cyanopyridine (6 g, 57.6 mmol) in toluene (150 ml) was added over 10 minutes and the reaction mixture was heated to 85°-90° C. After 24 hours, the reaction mixture was cooled to room temperature and poured over a slurry of silica gel in chloroform. After filtration, the residue was washed with a mixture of methylene chloride/methanol and later methanol. The combined filtrates were concentrated and the resulting yellowish solid was stirred with ethyl acetate (1500 ml) and filtered. The pale yellow solid (5.2 g, 66%) was used in the next reaction without further purification.

reactant | 4-(methylsulfonyl)aniline hydrochloride | 28.8 mmol, 6 g | Cl.CS(=O)(=O)C1=CC=C(N)C=C1
reactant | trimethylaluminum | 43.2 mmol, 2M, 21.6 ml | C[Al](C)C
reactant | 2-cyanopyridine | 57.6 mmol, 6 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(methylsulfonyl)phenyl]-2-pyridinecarboximidamide | CS(=O)(=O)C1=CC=C(C=C1)NC(=N)C1=NC=CC=C1 | C13H13N3O2S
